US06548495B2
{2-[3-oxo-3-(3-[1,2,3]Triazol-1-yl-phenyl)-propionylamino]-4-pyrrol-1-yl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example J2) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example K1) according to the general procedure M. Obtained as a light yellow solid (140 mg).

reactant | (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)N)=O | C15H19N3O2
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | {2-[3-oxo-3-(3-[1,2,3]Triazol-1-yl-phenyl)-propionylamino]-4-pyrrol-1-yl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C26H26N6O4
